US07906654B2
To a stirred solution of 1-(4-bromophenyl)cyclobutanecarbonitrile (2.8 g, 11.9 mmol) in anhydrous THF (70 mL) at −78° C. is added n-butyllithium (2 M in c-hexane) (7.44 mL, 14.9 mmol). The reaction mixture is stirred at that temperature 10 min., then N-methoxy-N-methyl-acetamide (2.50 mL, 23.8 mmol) is added and the solution is then left to warm-up to room temperature over 1 h. A mixture of brine (30 mL) and 1 N HCl (15 mL) is then slowly added and the solution is extracted with EtOAc (3×100 mL). The organic layer is dried over MgSO4, filtered and concentrated under reduced pressure. The crude product is purified by flash chromatography using a 0 to 20% EtOAc in hexane gradient to yield 1-(4-acetylphenyl)cyclobutanecarbonitrile (1.35 g, 57%) as a yellowish oil. 1H NMR (300 MHz, CHLOROFORM-D) δ 8.03-(2H, m), 7.56-7.50 (2H, m), 2.94-2.81 (2H, m), 2.71-2.57 (2H, m), 2.62 (3H, s), 2.57-2.40 (1H, m), 2.18-2.05 (1H, m).

reactant | 1-(4-bromophenyl)cyclobutanecarbonitrile | 11.9 mmol, 2.8 g | BrC1=CC=C(C=C1)C1(CCC1)C#N | C11H10BrN
reactant | n-butyllithium | 14.9 mmol, 2 M, 7.44 mL | C(CCC)[Li]
reactant | N-methoxy-N-methyl-acetamide | 23.8 mmol, 2.50 mL | CON(C(C)=O)C | C4H9NO2
reactant | HCl | 1 N, 15 mL | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 1-(4-acetylphenyl)cyclobutanecarbonitrile | 1.35 g, 57% | C(C)(=O)C1=CC=C(C=C1)C1(CCC1)C#N | C13H13NO
